US07776869B2
Step 5: N-cyclopropyl-4-methyl-3-(2-(6-(2-morpholinoethylamino)pyridin-3-yl)ethynyl)benzamide
5-Ethynyl-N-(2-morpholinoethyl)pyridin-2-amine (0.54 g, 2.36 mmol), N-cyclopropyl-3-iodo-4-methylbenzamide (0.71 g, 2.36 mmol), and triethylamine (0.49 mL, 3.54 mmol) were dissolved in dioxane (10 mL) before these were sparged with nitrogen for 15 min.; palladium dichloro-bis-triphenylphosphine (83 mg, 0.12 mmol) and copper (I) iodide (45 mg, 0.24 mmol) were added before the reaction mixture was heated to 90° C. for 6 h. The reaction mixture was diluted with 100 mL EtOAc, washed with 50 mL saturated, aqueous NaHCO3, and dried over anhydrous Na2SO4. After purification by chromatography, the title compound was obtained as a yellow oil. MS (ES+): 406 (M+H)+.

reactant | 5-Ethynyl-N-(2-morpholinoethyl)pyridin-2-amine | 2.36 mmol, 0.54 g | C(#C)C=1C=CC(=NC1)NCCN1CCOCC1 | C13H17N3O
reactant | N-cyclopropyl-3-iodo-4-methylbenzamide | 2.36 mmol, 0.71 g | C1(CC1)NC(C1=CC(=C(C=C1)C)I)=O | C11H12INO
reactant | triethylamine | 3.54 mmol, 0.49 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | copper (I) iodide | 0.24 mmol, 45 mg | [Cu]I
product | N-cyclopropyl-4-methyl-3-(2-(6-(2-morpholinoethylamino)pyridin-3-yl)ethynyl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C#CC=1C=NC(=CC1)NCCN1CCOCC1)=O | C24H28N4O2
